US07851473B2
(2) N-(4-Bromo-1-methyl-1H-pyrazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (4-bromo-1-methyl-1H-pyrazol-5-yl)carbamate (289 mg, 0.822 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (184 mg, 0.747 mmol) and diisopropylethylamine (0.143 ml, 0.822 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 15.5 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 233 mg (69.7%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (4-bromo-1-methyl-1H-pyrazol-5-yl)carbamate | 0.822 mmol, 289 mg | BrC=1C=NN(C1NC(OCC(Cl)(Cl)Cl)=O)C | C7H7BrCl3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.747 mmol, 184 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.822 mmol, 0.143 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(4-Bromo-1-methyl-1H-pyrazol-5-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 233 mg, 69.7% | BrC=1C=NN(C1NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1)C | C17H18BrN7OS
